US05112998
The procedure of Example 7 was repeated except that 0.295 g (0.769 mmole) of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one was used in lieu of 0.328 g of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one to give 0.231 g of 20-(1,3-dioxolan-2-yl)-1α,2α;6α,760 -diepoxypregn-4-en-3-one (yield: 75%).

reactant | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one | 0.769 mmole, 0.295 g | O1C(OCC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)=O | C24H32O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-4,6-dien-3-one | 0.328 g | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)=O)C | C27H38O4
product | diepoxypregn-4-en-3-one | yield: 75% | O1C2C1([C@H]1CC[C@H]3[C@@H]4CCC5=CC(CC[C@]5(C)[C@H]4CC[C@]13C)=O)O2 | C21H28O3
